US04105435
Preparation of α-Methoxy-β-[4-(4-trifluoromethylphenoxy)phenoxy]propane
6 g of β-[4-(4-trifluoromethylphenoxy)phenoxy]propanol was dissolved in 30 ml of dioxane and 0.46 g of sodium was added to the solution. The mixture was then heated for 3 hours while refluxing. 3.1 g of methyl iodide was added thereto and the resulting mixture was heated for 6 hours while refluxing. The reaction mixture was then poured into an appropriate amount of water and extracted with diethyl ether. The extract was washed with water and dried over anhydrous sodium sulfate. The ether was removed by distillation and the residue was distilled under reduced pressure to obtain 4.2 g of the desired product having a boiling point of 160° to 165° C/2 mmHg.

reactant | β-[4-(4-trifluoromethylphenoxy)phenoxy]propanol | 6 g | FC(C1=CC=C(OC2=CC=C(OC(CO)C)C=C2)C=C1)(F)F | C16H15F3O3
reactant | sodium | 0.46 g | [Na] | Na
reactant | methyl iodide | 3.1 g | CI | CH3I
reactant | water | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | α-Methoxy-β-[4-(4-trifluoromethylphenoxy)phenoxy]propane | 4.2 g | COCC(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F | C17H17F3O3
